US07572801B2
A solution of 2-aminomethyl-6-fluoro-3H-pyrido[2,3-d]pyrimidin-4-one (130 mg, 0.67 mmol) in THF (5 ml) was treated with DIPEA (173 mg, 1.34 mmol) and 3-phenyl-propionyl chloride (136 mg, 0.80 mmol) at 0° C. for 18 hours. The reaction mixture was diluted with EtOAc, washed with water and brine. The organic layers were dried over MgSO4, filtrated, evaporated and chromatographed (silica gel, EtOAc/heptane, 1/1) to yield N-(6-fluoro-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-3-phenyl-propionamide (6 mg, 13 μmol; 2%) as yellow solid. MS (m/e): 327.3 [M+H+].

reactant | 2-aminomethyl-6-fluoro-3H-pyrido[2,3-d]pyrimidin-4-one | 0.67 mmol, 130 mg | NCC=1NC(C2=C(N1)N=CC(=C2)F)=O | C8H7FN4O
reactant | DIPEA | 1.34 mmol, 173 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-phenyl-propionyl chloride | 0.80 mmol, 136 mg | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(6-fluoro-4-oxo-3,4-dihydro-pyrido[2,3-d]pyrimidin-2-ylmethyl)-3-phenyl-propionamide | 13 μmol, 6 mg, 2% | FC1=CC2=C(N=C(NC2=O)CNC(CCC2=CC=CC=C2)=O)N=C1 | C17H15FN4O2
